US08431733B2
A. Preparation of (2S,3S)-3-(Dibenzylamino)-2-hydroxyhexanenitrile
To a solution of (S)-2-(dibenzylamino)pentanal (125 g; 0.444 mol) in methanol (375 mL) at 0-5° C. was added a previously cooled (0-5° C.) aqueous solution of sodium bisulfite (69.39 g, 0.667 mol; 150 mole %) in water (530 mL). The reaction mixture was stirred at 0-5° C. for 14 hours. A solution of sodium cyanide (32.02 g; 0.667 mol; 150 mol %) in water (402 mL), followed by ethyl acetate (1.25 L) was added to the above reaction mixture at 0° C. Stirring was continued at ambient temperature for 5 hours, monitoring progress of the reaction by TLC analysis (ethyl acetate/hexane, 1:9). Once the reaction was complete, the ethyl acetate layer was separated, washed with water (2×750 mL) and dried over sodium sulfate. The organic extract was concentrated under reduced pressure, washed with hexanes (200 mL), to provide 94 g of crude product as an off-white solid.

reactant | (S)-2-(dibenzylamino)pentanal | 0.444 mol, 125 g | C(C1=CC=CC=C1)N([C@H](C=O)CCC)CC1=CC=CC=C1 | C19H23NO
reactant | sodium bisulfite | 0.667 mol, 69.39 g | S([O-])(O)=O.[Na+]
reactant | sodium cyanide | 0.667 mol, 32.02 g | [C-]#N.[Na+]
reactant | ethyl acetate | 1.25 L | C(C)(=O)OCC | C4H8O2
solvent | methanol | 375 mL | CO | CH4O
solvent | water | 530 mL | O | H2O
solvent | water | 402 mL | O | H2O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | (2S,3S)-3-(Dibenzylamino)-2-hydroxyhexanenitrile | 94 g | C(C1=CC=CC=C1)N([C@H]([C@@H](C#N)O)CCC)CC1=CC=CC=C1 | C20H24N2O
